* gnetlist -L ../.. -g spice-noqsi -o test_inverter.net test_inverter.sch
* SPICE file generated by spice-noqsi version 20130710
* Send requests or bug reports to jpd@noqsi.com
.INCLUDE ./simulation.cmd
.INCLUDE CMOS_Inverter.net
V1 IN GND pulse 0 'SUPPLY' 0 100p 100p 1.9n 4n
C1 GND OUT 200f      

.PARAM SUPPLY=3v
.options TEMP=25
.options SCALE=1u
.MODEL nch NMOS
.MODEL pch PMOS
X1 IN OUT INV1
Vd Vdd GND 'SUPPLY'
Vs Vss GND 0V
.GLOBAL Vdd Vss
