* gnetlist -g spice-noqsi -o divide_by_two.net divide_by_two.sch
* SPICE file generated by spice-noqsi version 20130710
* Send requests or bug reports to jpd@noqsi.com
.INCLUDE ./simulation.cmd
MD2.M4 3 4 Vdd Vdd pmos4  l=11u w=2u         
MD2.M3 4 3 Vdd Vdd pmos4  l=11u w=2u         
MD2.M1 4 1 9 9 nmos4  l=11u w=1u         
MD2.M2 3 2 9 9 nmos4  l=11u w=1u         
MD2.M5 9 5 GND GND nmos4  l=11u w=8u         
Minv2.P1 14 15 inv2/Vdd inv2/Vdd pmos4  l=1u w=6u         
Minv2.N1 14 15 inv2/GND inv2/GND nmos4  l=1u w=3u         
inv2.vddrail inv2/Vdd   
*
*
rail1 GND   
MD1.M4 2 1 Vdd Vdd pmos4  l=11u w=2u         
MD1.M3 1 2 Vdd Vdd pmos4  l=11u w=2u         
MD1.M1 1 3 19 19 nmos4  l=11u w=1u         
MD1.M2 2 4 19 19 nmos4  l=11u w=1u         
MD1.M5 19 13 GND GND nmos4  l=11u w=8u         
options TEMP=25
VDD Vdd GND vdd
toprail Vdd   
*
VCLK 23 GND pulse 0 1 10n 10n 100n 1u 2u
Minv1.P1 24 25 inv1/Vdd inv1/Vdd pmos4  l=1u w=6u         
Minv1.N1 24 25 inv1/GND inv1/GND nmos4  l=1u w=3u         
inv1.vddrail inv1/Vdd   
*
*
*
